US06797718B2
A solution of tert-butyl 2-(2-azidoethoxy)ethylcarbamate (52 g, 226 mmol) in methanol (500 mL) was added to a Parr vessel containing 10% palladium on carbon (4 g) which had been wetted with toluene (30 mL). The mixture was placed under hydrogen pressure (30 psi; 2.0×105 Pa). After 18.5 hours analysis by thin layer chromatography indicated that the reaction was not complete. Catalyst (0.5 g) was added and the hydrogenation was continued for an additional 4 hours. The reaction mixture was filtered through a layer of Celite® filter aid and a glass wool filter pad. The filter cake was rinsed with a mixture of isopropanol and methanol. The filtrate was concentrated under reduced pressure to provide tert-butyl 2-(2-aminoethoxy)ethylcarbamate.

reactant | tert-butyl 2-(2-azidoethoxy)ethylcarbamate | 226 mmol, 52 g | N(=[N+]=[N-])CCOCCNC(OC(C)(C)C)=O | C9H18N4O3
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 500 mL | CO | CH4O
catalyst | palladium on carbon | 4 g | [Pd] | Pd
product | tert-butyl 2-(2-aminoethoxy)ethylcarbamate | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
